US05214045
Diethyl N-[3-phenylsulfinyl-2(E)-propenoyl]-(R)-aspartate
Diethyl N-[3-phenylthio-2(E)-propenoyl]-(R)-aspartate (3.51 g, 10 mmol) was dissolved in glacial acetic acid (30 ml) and a 30% solution of hydrogen peroxide (1.4 ml) was added and the mixture was stirred at room temperature for 36 hours, then diluted with water (100 ml) and extracted twice with dichloromethane (50 ml each). The organic phase was dried over anhydrous sodium sulfate, the solvents were evaporated and the residue was suspended in carbon tetrachloride and filtered to give a crude product which was recrystallised from toluene, yielding the desired product (2.3 g, 63%).

reactant | Diethyl N-[3-phenylthio-2(E)-propenoyl]-(R)-aspartate | 10 mmol, 3.51 g | C1(=CC=CC=C1)S/C=C/C(=O)N[C@H](CC(=O)OCC)C(=O)OCC | C17H21NO5S
reactant | hydrogen peroxide | 1.4 ml | OO | H2O2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
product | Diethyl N-[3-phenylsulfinyl-2(E)-propenoyl]-(R)-aspartate | 2.3 g, 63% | C1(=CC=CC=C1)S(=O)/C=C/C(=O)N[C@H](CC(=O)OCC)C(=O)OCC | C17H21NO6S
